US06387912B1
m) 4-Piperazin-1-ylisoquinoline
4.51 g (21.7 mmol) of 4-bromoisoquinoline, 4.65 g (25.0 mmol) of t-butyl piperazine-N-carboxylate, 0.1 g (0.11 mmol) of tris(dibenzylideneacetone)dipalladium, 0.11 g (0.18 mmol) of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl and 2.92 g (30.4 mmol) of sodium t-butoxide were together added to 50 ml of toluene and the mixture was stirred at 75° C. for 2 h. The reaction mixture was added to ice/sodium chloride and the latter mixture was extracted with ethyl acetate; the organic phase was dried over sodium sulfate and the solvent was removed on a rotary evaporator. The product crystallized out and was filtered off with suction and washed with pentane. This resulted in 5.5 g (81%) of the Boc-protected piperazine (m.p.: 111° C.). 5.2 g (16.6 mmol) of this substance were taken up in 17 ml of dichloromethane, after which 17 ml (0.22 mmol) of trifluoroacetic acid were slowly added at 0° C. The mixture was left to stir at 0° C. for 4 h and was then poured onto ice water and this latter mixture was extracted with dichloromethane. The aqueous phase was filtered, rendered alkaline and extracted with dichloromethane. After drying over sodium sulfate and to a large extent removing the solvent, dilution was carried out with diethyl ether, and the hydrochloride was precipitated with ethereal hydrochloric acid. This afforded 3.2 g (67%) of the product having a m.p. of 293-294° C.

reactant | 4-bromoisoquinoline | 21.7 mmol, 4.51 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | t-butyl piperazine-N-carboxylate | 25.0 mmol, 4.65 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.18 mmol, 0.11 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium t-butoxide | 30.4 mmol, 2.92 g | CC(C)([O-])C.[Na+]
reactant | trifluoroacetic acid | 0.22 mmol, 17 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.11 mmol, 0.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Piperazin-1-ylisoquinoline | N1(CCNCC1)C1=CN=CC2=CC=CC=C12 | C13H15N3
